US07053212B2
Step A: Toluene-4-sulfonic acid 4-formyl-phenyl ester
To a solution of 4-hydroxybenzaldehyde (5.93 g, 48.56 mmol) and triethylamine (10 mL) in 50 mL of dichloromethane was added tosyl chloride (11.8 g, 61.89 mmol). The reaction mixture was stirred at room temperature for 24 hr. The reaction mixture was diluted with water, acidified with 1 N HCl, and extracted into methylene chloride. The organic layer was separated, dried over magnesium sulfate, and concentrated. The residue was purified by silica gel chromatography (9:1 hexanes:ethyl acetate to 5:1 hexanes:ethyl acetate) to afford 9.50 g (71%) of the title compound of Step A. 1HNMR (CDCl3): δ 9.81 (s, 1H), 7.69 (d, 2H, J=8.8 Hz), 7.57 (d, 2H, J=8.4 Hz), 7.19 (d, 2H, J=8.4 Hz), 7.03 (d, 2H, J=8.4 Hz), and 2.28 (s, 3H).

reactant | 4-hydroxybenzaldehyde | 48.56 mmol, 5.93 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | triethylamine | 10 mL | C(C)N(CC)CC | C6H15N
reactant | tosyl chloride | 61.89 mmol, 11.8 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | HCl | 1 N | Cl | ClH
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | Toluene-4-sulfonic acid 4-formyl-phenyl ester | 9.50 g, 71% | C(=O)C1=CC=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)C | C14H12O4S
